US07030128B2
2-Bromo-6-(pyrrolidin-1-yl)pyridine (481 mg, 2.1 mmol) (prepared by the method of T. Sammakia et al., J. Org. Chem., 1999, 64(13), 4652-4664) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.4 mmol) by the method of Example 1 to give 3-[6-(pyrrolidin-1-yl)pyridin-2-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine (125 mg) as a white solid: δH (360 MHz, DMSO) 2.02 (4H, t, J 6.5), 3.51 (4H, bs), 6.43 (1H, d, J 8.4), 7.27 (1H, d, J 7.7), 7.63 (1H, t, J 7.9), 7.71 (1H, d, J 7.4), 8.72 (1H, s), 10.51 (1H, d, J 7.4); m/z (ES+) 334 (M++H).

reactant | 2-Bromo-6-(pyrrolidin-1-yl)pyridine | 2.1 mmol, 481 mg | BrC1=NC(=CC=C1)N1CCCC1 | C9H11BrN2
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.4 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[6-(pyrrolidin-1-yl)pyridin-2-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | 125 mg | N1(CCCC1)C1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C16H14F3N5
